Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine / propofol
 
Attending: ___.
 
Chief Complaint:
unresponsive, ?seizure
 
Major Surgical or Invasive Procedure:
intubation at OSH
 
History of Present Illness:
HPI:  
Eu Critical ___ is a ___ with h/o 
possible seizure disorder, opioid use disorder who was admitted 
for possible seizure/status epilepticus intubated, sedation. 
History per report and medical records as is intubated on 
arrival with no collaterals at bedside.  She initially presented 
to OSH after a possible altercation where she had motor oil 
thrown on her and was found by EMS face down unresponsive and 
was intubated for concern for status epilepticus and transferred 
for further evaluation.

She was initially found down covered in motor oil and debris.  
She was BIBA and reportedly had several short convulsive 
episodes with
concern for seizures followed by sustained
convulsions at OSH with concern for status epilepticus.  She was
paralyzed intubated for airway protection and imaging studies. 
She was given in total 4 mg of midazolam and 10 mg of lorazepam
for her convulsions and received 50 mg of activated charcoal
because of concern for ingestion of motor oil.  She also 
received
2 liters of normal saline and 2 grams of magnesium.  She had
NCHCT and CT cervical spine which were normal.  She was
transferred here for escalation of care. 

She remained intubated in the ___ ED and was on propofol and
fentanyl.  She has not had further convulsive episodes.   
 

 
Past Medical History:
Opioid use disorder 
Possible seizure disorder
Prior Gastric Bypass
 
Social History:
___
Family History:
No family history of seizure disorder
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 

Patient off Propofol for 20 minutes.
Mental status: 
She is sleeping and snoring.  She opens her eyes to sternal rub
and will regard me on both sides.  She will move her hands and
feet to both side
Cranial nerves:
PERRL.  EOMI.  Eyes conjugate and no nystagmus on fixation or
lateral gaze.  Face symmetric.  Gag and cough present.  Shoulder
sit symmetrically. 
Motor:
She moves all four extremities symmetrically and forcefully. 
Reflexes:
She has symmetrically brisk reflexes throughout.  She has no
patellar reflexes, but has cross abductor and pre patellar
reflexes.  Her plantar reflexes are flexor. 

*******
DISCHARGE PHYSICAL EXAM: 
General: young woman in no acute distress 
HEENT: PERRL
Neck: supple
CV: RRR
Lungs:  CTAB 
Abdomen:  soft, NT, ND
GU:  foley, deferred
Ext:  warm well perfused, no edema, abrasions on right forearm
Skin: multiple tattoos, no rashes

Neuro:  
MS- AAOx3
CN- Pupils 2-->1 bilateral, EOMi, face symmetric, tongue 
midline, Sternocleidomastoid and trapezius normal bilaterally.  
Sensory/Motor-  
RUE: ___
LUE: ___
RLE: ___
LLE: ___
*Giveway weakness throughout but no overt weakness 
sensation intact to light touch throughout, proprioception 
intact at the toes
   
Reflexes:
brisk PTRs bilateral
plantar reflexes are flexor 

Coordination: No dysmetria, she is slow with FNF bilaterally 

Gait: Unsteady, wide based. 

 
Pertinent Results:
Lab Results: 

___ 07:13PM BLOOD WBC-8.1 RBC-4.18 Hgb-13.1 Hct-40.7 MCV-97 
MCH-31.3 MCHC-32.2 RDW-14.6 RDWSD-52.7* Plt ___
___ 07:13PM BLOOD Neuts-50.2 ___ Monos-9.9 Eos-4.0 
Baso-1.0 Im ___ AbsNeut-4.04 AbsLymp-2.79 AbsMono-0.80 
AbsEos-0.32 AbsBaso-0.08
___ 07:13PM BLOOD Glucose-87 UreaN-7 Creat-0.7 Na-142 K-3.9 
Cl-107 HCO3-24 AnGap-11
___ 07:13PM BLOOD ALT-32 AST-67* CK(CPK)-129 AlkPhos-96 
TotBili-0.4
___ 07:13PM BLOOD Albumin-3.3* Calcium-8.4 Phos-2.7 Mg-2.3
___ 07:13PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:40PM BLOOD Type-ART pO2-514* pCO2-39 pH-7.45 
calTCO2-28 Base XS-3 As/Ctrl-ASSIST/CON Intubat-INTUBATED

Images: 
CXR:   
ET tube appropriately positioned.  Enteric tube tip in the 
gastric fundus with side-port in the distal esophagus and should 
be advanced for optimal 
positioning. 

CT head, CT Abdomen/pelvis reports reviewed via ___

 
Brief Hospital Course:
Brief Hospital Course: 

Eu Critical ___ is a ___ year old woman 
with past medical history of ? possible seizure disorder who is 
prescribed keppra and opioid use disorder who neurology had been 
consulted because of reported seizures at outside hospital (___ 
___. 

Ms. ___, per EMS, had an altercation with her boyfriend on 
the day of presentation. The patient states that her boyfriend 
became suddenly agitated and violent and was trying to beat her. 
He threw her on the hood of his car and pinned her down. He then 
poured motor oil on her face and she ingested quite a bit of it 
(maybe half of the jug). 

Ms. ___ was found on the ground face down and unresponsive. 
She was covered in motor oil and debris.  Ms. ___ was picked 
up by EMS and taken to ___. In route to hospital she had 
several short convulsive episodes with concern for seizures and 
at hospital she had sustained convulsions with concern for 
status epilepticus.  She was paralyzed intubated for airway 
protection and imaging studies.  She was given in total 4 mg of 
midazolam and 10 mg of lorazepam for he convulsions and received 
50 mg of activated charcoal because of concern for ingestion of 
motor oil.  She also received 2 liters of normal saline and 2 
grams of magnesium.  She had ___ and CT cervical spine which 
were normal.  She was transferred to ___ for further 
evaluation. 

On arrival to ___, the patient was brought to the neuro ICU. 
Shortly after arriving to the neuro ICU she self-extubated. Her 
vital signs remained within normal limits after extubation. She 
had labs drawn on arrival that were notable only for urine tox 
screen positive for cocaine and elevated AST to 67. 

The next morning the patient wanted to leave the hospital prior 
to further evaluation and monitoring for further seizure 
activity, polysubstance use, and ingestion of motor oil. She 
reported having pain throughout her body. She did not have any 
episodes of seizures or seizure-like activity while at ___ 
___. The patient did not want further labs drawn on herself. 
She expressed concern for her animals at home and wanted to 
return home immediately. Her neurologic exam was unremarkable. 
She did not allow for further work-up at this time. Social work 
consult was placed given concern for her safety given the 
domestic violence with her boyfriend. ___ control was also 
contacted for discussion about motor oil ingestion. Poison 
control stated that unless there was aspiration into the lungs, 
pure GI absorption of motor oil has little sequelae and no 
specific monitoring was needed other than routine labs and LFTs. 
The patient did not allow further labs however on admission day 
1. 

Patient received confirmation that her boyfriend was currently 
in jail with a bail posted and would not be home when she 
returned.  We attempted to make all accommodations to reassure 
the patient of the medical need for her continued care, with 
social supports to allow for further care to be delivered. We 
instructed
the patient that she should not drive per ___ law given her 
epilepsy, or perform other activities that may risk injury to 
herself or others should she lose consciousness. The risk of 
permanent injury or death were explained to the patient should 
she leave AMA, she was attentive, and communicated understanding
of the consequences of her leaving AMA. The patient's mother and 
sister arrived to take her home. We explained the situation to 
her family, who expressed understanding and support, but the 
patient continued to insist on leaving AMA. We provided a
prescription for levetiracetam to the patient. She was 
encouraged to see her PCP upon discharge. 

She was discharged against medical advice to her home. 

 
Medications on Admission:
1. Levetiracetam 1000mg BID
2. Seroquel 
3. Klonopin 2mg BID 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures
Polysubstance use
Motor oil ingestion
domestic abuse
 
Discharge Condition:
Stable
 
Discharge Instructions:
You were discharged against medical advice from the neurology 
ICU. You were transferred to ___ from ___ for concerns of 
ongoing seizures after you were assaulted and forced to ingest 
motor oil. You had one set of labs drawn which showed positive 
cocaine in your urine and mildly high liver enzymes. The rest of 
your testing was normal. We strongly encouraged you to stay in 
the hospital for observation, physical therapy for your 
difficulty walking, pain management, and to monitor you for any 
complications from motor oil ingestion. Your family also arrived 
at the hospital and encouraged you to stay for monitoring 
however you preferred to be discharged. 
We provided you with a prescription to fill your seizure 
medication keppra. Please take your evening dose of keppra today 
and as prescribed moving forward. Please see your PCP early this 
next week and arrange outpatient neurology follow up. 

We discussed that as state law in ___, you cannot operate a motor 
vehicle for 6-months from the last time you lost consciousness 
or had a seizure. 

We provided you with social work support services however you 
declined at the moment. We wish you all the best moving forward. 


It was a pleasure taking care of you, 

Sincerely, 

Your ___ Neurology Team
 
Followup Instructions:
___